Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Morphine / Latex
 
Attending: ___.
 
Chief Complaint:
Pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo f with h/o sickle cell, h/o PE, hep C, CVA (L side 
weakness as result), multiple admissions for pain control who 
was recently recently discharged from ___ on ___ for L 
leg cellulitis. Today she presents for pain control. She had 
been discharged from the hospital just two day previously, but 
states was unable to fill a Rx for MS contin over the long 
weekend so took dilaudid on 8mg x3 with some improvement but the 
pain persisted and she ran out of her Dilaudid. She also noted 
that she had mild fever throughout the day. Also she did not 
have any food yesterday because it was making her nauseaus and 
she had emesis x3 when she tried to take some ensure.  
In the ED VS, T 99.5 HR 101 SpO2 128/90 RR 16 SpO2 100 % RA.  
Patient received dilaudid 2mg IV x 4 for pain. She complained of 
lower lip swelling in the ED without wheezing, rash, or 
shortness of breath, and was given solumedrol, benadryl, and 
unasyn prior to transfer to the medicine floor.  On arrival to 
the floor, the patient stated that she was almost at her 
baseline pain. Otherwise feeling well, denies current fevers or 
chills.  

 
Past Medical History:
1) Sickle cell (HbSS) disease with frequent hospitalizations 
with pain crises discharge just 2 days prior for pain crisis.  
2) Pulmonary embolus in ___  
3) ? CVA in ___  
4) s/p acute chest syndrome requiring intubation in ___  
5) Asthma  
6) Borderline personality disorder/PTSD with history of suicidal 
ideation, past psychiatric hospitalizations  
7) Transfusion-related Hepatitis C  
8) s/p cholecystectomy  
9) Hx of seizure disorder-details unknown  
10) Hx of numerous port-a-cath placements  
11) Hx of coag-negative staph and MSSA line infections  
12) Hyperprolactinemia  
13) Lymphadenopathy L anterior cervical and R inguinal noted on 
last admission -- thought to be due to viral illness, with 
instructions to f/u with her PCP.
 
Social History:
___
Family History:
-mother ___ sickle trait
-father ___ has sickle cell anemia
also fam hx of HTN, HL, DM type II, blindness

 
Physical Exam:
Vitals - T: 98.8 BP: 104/80 HR: 82 RR: 16 02 sat: 99  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, PERRL, EOMI, MMM, oropharynx clear.  
There were multiple coalescing vesicules on the bottom left lip 
suggestive of a herpes simplex eruption.  <1cm L anterior 
cervical, +sub-mental, and stable 2cm R inguinal 
lymphadenopathy.   
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, liver tip 2 cm below costal 
margin  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CN II-VII-IX-XII, hearing decreased on L side. ___ 
strength R side, ___ strength LUE, ___ strength LLE, nl 
sensation R side, decreased sensation L side. Patient can 
ambulate per baseline.  

 
Pertinent Results:
___ 08:25AM BLOOD WBC-6.3 RBC-2.09* Hgb-8.5* Hct-25.8* 
MCV-123* MCH-40.5* MCHC-32.8 RDW-21.1* Plt ___
___ 08:25AM BLOOD Neuts-30* Bands-0 Lymphs-59* Monos-7 
Eos-4 Baso-0 ___ Myelos-0
___ 08:25AM BLOOD Hypochr-2+ Anisocy-3+ Poiklo-3+ 
Macrocy-3+ Microcy-2+ Polychr-2+ Target-2+ Sickle-2+ 
How-Jol-OCCASIONAL
___ 08:25AM BLOOD Plt Smr-NORMAL Plt ___
___ 08:25AM BLOOD ___ PTT-34.0 ___
___ 08:25AM BLOOD Glucose-82 UreaN-5* Creat-0.4 Na-138 
K-4.2 Cl-103 HCO3-27 AnGap-12
___ 08:25AM BLOOD ___ PTT-34.0 ___
___ 08:25AM BLOOD Glucose-82 UreaN-5* Creat-0.4 Na-138 
K-4.2 Cl-103 HCO3-27 AnGap-12
___ 08:25AM BLOOD Phenyto-8.9*
___ 08:39AM BLOOD K-3.9
___ 07:00AM URINE Color-Yellow Appear-Clear Sp ___
___ 07:00AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG

    ___ ___ F  ___ 
 
Radiology Report CHEST (PA & LAT) Study Date of ___ 8:31 AM 

 
  
___   ___ 8:31 AM 
CHEST (PA & LAT)   Clip # ___   
Reason: eval for acute process  
 

 
UNDERLYING MEDICAL CONDITION: 
   ___ year old woman with chest pain, SOB, sickle cell  
REASON FOR THIS EXAMINATION: 
   eval for acute process  

 
 
Final Report 
INDICATION: ___ woman with chest pain and shortness of 
breath.  
History of sickle cell. 
  
COMPARISON: Chest CT of ___. 
  
Stable scarring is identified in the right upper and left lower 
lobes.  
Otherwise, lungs are clear without consolidation or pleural 
effusion. There 
is no pneumothorax. The cardiomediastinal silhouette is stable. 
There is no 
hilar enlargement. Pulmonary vascularity is normal. 
Cholecystectomy clips 
are noted in the right upper quadrant. Vertebral body heights 
are preserved. 
  
IMPRESSIONS: No acute cardiopulmonary abnormality. 
  
The study and the report were reviewed by the staff radiologist. 

  
___. ___ 
___. ___ 
___: SUN ___ 3:42 ___ 
 
  Imaging Lab 
 

 
Brief Hospital Course:
  
#. Pain: Patient has a history of multiple pain crisis and is on 
on chronic pain meds. She presented with 1 day of pain after 
reportedly running out of her long acting narcotics on the day 
prior to admission. Initially her pain was thought to be due to 
sickle cell crisis as she had a history consistent with this, 
with a component of running out of pain medication. She was 
given IVF and restarted on he home pain regimen. On HD 2 her 
pain was under much better control and it was discovered that 
the patient had just been discharged, 2 days prior, for pain 
crisis. It was concluded that the reason for her pain was the 
lack of long acting pain medications and she was discharge with 
a prescription to receive these.    
 
#. Fever: Patient reported fevers at home up to 101. No signs of 
infection were found as WBC 6.3, Tmax 99.5, nl CXR and UA (-). 
She remained afebrile throughout admission. This may have been 
due to ongoing viral infection (see below).

#. Lip lession: Patient was found to have a lip lession on 
admission. This was thought to be due to herpes simplex virus. 
She was started on acyclovir and given a prescription to finish 
a 5 day course of this medication. 

 
Medications on Admission:
1. Albuterol Sulfate 2.5 mg /3 mL (0.083 %) Solution for  
Nebulization Sig: One (1) Inhalation Q4H (every 4 hours) as  
needed for shortness of breath, wheeze.  
2. Citalopram 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
 
times a day).  
4. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a  
day) as needed for constipation.  
5. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

6. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO Q8H (every  

8 hours).  
7. Hydroxyurea 500 mg Capsule Sig: Two (2) Capsule PO DAILY  
(Daily).  
8. Mirtazapine 15 mg Tablet Sig: One (1) Tablet PO HS (at  
bedtime).  
9. Phenytoin Sodium Extended 100 mg Capsule Sig: Two (2) Capsule 
 
PO BID (2 times a day).  
10. Morphine 30 mg Tablet Sustained Release Sig: Two (2) Tablet  

Sustained Release PO Q12H (every 12 hours).  
11. Warfarin 5 mg Tablet Sig: One (1) Tablet PO Once Daily at 4  

___: Please check INR on ___, and on ___, and adjust coumadin dose as appropriate for goal INR ___.  
Afterwards, please check INR as appropriate to monitor.  
12. Polyethylene Glycol 3350 100 % Powder Sig: One (1) PO DAILY  

(Daily) as needed for constipation.  
13. Camphor-Menthol 0.5-0.5 % Lotion Sig: One (1) Appl Topical  
TID (3 times a day) as needed for itching.  
14. Doxycycline Hyclate 100 mg Capsule Sig: One (1) Capsule PO  
Q12H (every 12 hours): Please take up to and including ___.  
Disp:*11 Capsule(s)* Refills:*0*  
15. Hydromorphone 4 mg Tablet Sig: ___ Tablets PO Q3H (every 3  
hours) as needed for pain.  

 
Discharge Medications:
1. Albuterol Sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1)  Inhalation Q4H (every 4 hours) as 
needed for whezze, SOB.  
2. Citalopram 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
4. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
5. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

6. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO Q8H (every 
8 hours).  
7. Hydroxyurea 500 mg Capsule Sig: Two (2) Capsule PO DAILY 
(Daily).  
8. Mirtazapine 15 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
9. Phenytoin Sodium Extended 100 mg Capsule Sig: Two (2) Capsule 
PO BID (2 times a day).  
10. Morphine 30 mg Tablet Sustained Release Sig: Two (2) Tablet 
Sustained Release PO Q12H (every 12 hours).  
11. Warfarin 5 mg Tablet Sig: One (1) Tablet PO Once Daily at 4 
___.  
12. Polyethylene Glycol 3350 100 % Powder Sig: One (1)  PO DAILY 
(Daily) as needed for constipation.  
13. Hydromorphone 4 mg Tablet Sig: One (1) Tablet PO Q6H (every 
6 hours) as needed for pain.  
14. Acetaminophen 325 mg Tablet Sig: One (1) Tablet PO Q4H 
(every 4 hours) as needed for Headache.  
15. Acyclovir 200 mg Capsule Sig: Two (2) Capsule PO TID (3 
times a day) for 4 days.
Disp:*24 Capsule(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Chronic pain
Sickle Cell Anemia
HSV infection
Lymphadenopathy

 
Discharge Condition:
good, afebrile, pain under good control

 
Discharge Instructions:
You were admitted to the hospital because you ran out of your 
chronic pain medication and started experiencing increased pain. 
We restarted you on you home dose of pain medications and your 
pain improved. While in the hospital you were found to have a 
herpes infection of your lip and we started you on a medication 
called acyclovir that is going to treat this. Please continue to 
take this medication as prescribed.
No other changes were made to your medications.
Please call your doctor or return to the hospital if you 
experience fever or chills, chest pain, shortness of breath, 
pain similar to your sickle cell crises, are unable to take your 

seizure medications or any other concerning symptoms.

 
Followup Instructions:
___